US07252865B2
A mixture of 1,2,3-propanetricarboxylic acid (25 g), cyclohexanol (55 g), and p-toluenesulfonic acid (100 mg) in toluene (500 mL) was refluxed for 2 days and water removed from the reaction mixture. After reaction was complete, solvent was removed in vacuuo to yield a viscous oil. The crude material was redissolved in heptane and passed through a pad of silica gel to obtain 1,2,3-propanetricarboxylic acid tricyclohexyl ester (50 g) as a pale yellow oil.

reactant | 1,2,3-propanetricarboxylic acid | 25 g | C(C(CC(=O)O)C(=O)O)C(=O)O | C6H8O6
reactant | cyclohexanol | 55 g | C1(CCCCC1)O | C6H12O
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
solvent | heptane | CCCCCCC | C7H16
catalyst | p-toluenesulfonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 1,2,3-propanetricarboxylic acid tricyclohexyl ester | 50 g | C1(CCCCC1)OC(=O)CC(CC(=O)OC1CCCCC1)C(=O)OC1CCCCC1 | C24H38O6
